US08603756B2
To a stirred suspension of H-β-Ala-OH (1.02 g, 11.4 mmol) and ivDde-OH (5 ml, 22.9 mmol) in EtOH was added TFA (88 μL, 1 mmol) at room temperature.1 The mixture was then refluxed for 24 hours. After the solvent was evaporated in vacuo, a crude product was purified by column chromatography with CH3OH/CH2Cl2 (0.1% TFA) gradient to afford ivDde-β-Ala-OH (3.3 g, 97.6%). NMR (CDCl3) δ 1.02 (m, 12H), 1.90-2.03 (m, 1H), 2.39 (s, 4H), 2.75 (t, J=6.0 Hz, 2H), 3.06 (br d, =6.0 Hz, 2H), 3.78 (q, J=6.0 Hz, 2H); 13C NMR (CDCl3) δ 22.8, 28.4, 29.4, 30.2, 34.1, 37.4, 39.6, 52.9, 107.4, 173.0, 177.2; MS (MALDI) m/z: calcd for C16H26NO4 296.2; found 296.5 [M+H]+.

reactant | H-β-Ala-OH | 11.4 mmol, 1.02 g | NCCC(=O)O | C3H7NO2
reactant | ivDde-OH | 22.9 mmol, 5 ml | C(CC(C)C)(=C1C(=O)CC(C)(C)CC1=O)O | C13H20O3
solvent | EtOH | CCO | C2H6O
catalyst | TFA | 1 mmol, 88 μL | C(=O)(C(F)(F)F)O | C2HF3O2
product | ivDde-β-Ala-OH | 3.3 g, 97.6% | N(CCC(=O)O)C(CC(C)C)=C1C(=O)CC(C)(C)CC1=O | C16H25NO4
